* Z:\mnt\design.r\spice\examples\ADP7105.asc
C2 N002 0 2.7n
V1 IN 0 4.3
Rload OUT 0 11
C1 OUT 0 2.2µ
R1 OUT N003 17.4k
R2 N003 0 10K
XU1 IN N003 IN N002 OUT 0 N001 ADP7105 Vref=1.22
R3 OUT N001 100k
.tran 6m startup
.lib ADP7102.lib
.backanno
.end
